**
** Library generated Tuesday, June 02, 2020 21:58:17
** The IBIS file was D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\SN74LVC1G74\SN74LVC1G74.ibs
**
** Failed to open copyright.txt. Error: 2.
** Warning: Model LVC1G74_IN changed to LVC1G74_
** Warning: Model LVC1G74_OUT changed to LVC1G75_
** Warning: Model LVC1G74_NCLR_IN changed to LVC1G76_
** Warning: Model LVC1G74_NPRE_IN changed to LVC1G77_
** Warning: Model LVC1G74_NPRE_IN_18 changed to LVC1G78_
** Warning: Model LVC1G74_NPRE_IN_25 changed to LVC1G79_
** Warning: Model LVC1G74_NPRE_IN_33 changed to LVC1G7A_
** Warning: Model LVC1G74_NPRE_IN_50 changed to LVC1G7B_
** Warning: Model LVC1G74_NCLR_IN_18 changed to LVC1G7C_
** Warning: Model LVC1G74_NCLR_IN_25 changed to LVC1G7D_
** Warning: Model LVC1G74_NCLR_IN_33 changed to LVC1G7E_
** Warning: Model LVC1G74_NCLR_IN_50 changed to LVC1G7F_
** Warning: Model LVC1G74_IN_18 changed to LVC1G7G_
** Warning: Model LVC1G74_IN_25 changed to LVC1G7H_
** Warning: Model LVC1G74_IN_33 changed to LVC1G7I_
** Warning: Model LVC1G74_IN_50 changed to LVC1G7J_
** Warning: Model LVC1G74_OUT_18 changed to LVC1G7K_
** Warning: Model LVC1G74_OUT_25 changed to LVC1G7L_
** Warning: Model LVC1G74_OUT_33 changed to LVC1G7M_
** Warning: Model LVC1G74_OUT_50 changed to LVC1G7N_
**********
*SRC=LVC1G74__Pin_1_T;LVC1G74__Pin_1_T;IBIS_BUFFER;*SYM=IBISO
.SUBCKT LVC1G74__Pin_1_T 100 4 300 400 500
*Connections    Input Output VCC VEE Enable
** Referenced by:
** CLK
*Model Version; typical
*DEFINE {RTF}=??bad rtr/rtf value??
*DEFINE {RTR}=??bad rtr/rtf value??
* Input Control
B1 820 0 V=V(100) & V(500)
B2 830 0 V= V(500) & ~V(100)
* Up and Down Ramps
B3 300 850 I= V(830) > 1.2   ? 0 : V(300,850) / {RTR}
RB3 300 850 100MEG
B4 840 400 I= V(820) > 1.2 ? 0 : V(840,400) / {RTF}
RB4 840 400 100MEG
C1 300 850 .01P
C2 840 400 .01P
S1 220 850 0 820 SMOD
S2 840 220 0 830 SMOD
.MODEL SMOD SW RON=.1M ROFF=1E15 VT=-1.2 VH=.1
G1 8 400 2 8 1
R1 6 400 1
G2 300 8 8 3 1
R2 300 6 1
* Pull-up/Pull-down structures; typical
* Diode Clamps
* Package Parasitics: typical
ROSNB 5 1 100
ROPKG 1 4 3.100e-02
COPKG 4 400 2.230e-13
CCOMP 5 400 LOPKG 5 1 1.894e-09
* Voltage Sources for measuring currents
V5 6 5 
V6 8 6 
V7 220 8 
.ENDS
**********

**
** Library generated Tuesday, June 02, 2020 21:58:17
** The IBIS file was D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\SN74LVC1G74\SN74LVC1G74.ibs
**
** Failed to open copyright.txt. Error: 2.
** Warning: Model LVC1G74_IN changed to LVC1G74_
** Warning: Model LVC1G74_OUT changed to LVC1G75_
** Warning: Model LVC1G74_NCLR_IN changed to LVC1G76_
** Warning: Model LVC1G74_NPRE_IN changed to LVC1G77_
** Warning: Model LVC1G74_NPRE_IN_18 changed to LVC1G78_
** Warning: Model LVC1G74_NPRE_IN_25 changed to LVC1G79_
** Warning: Model LVC1G74_NPRE_IN_33 changed to LVC1G7A_
** Warning: Model LVC1G74_NPRE_IN_50 changed to LVC1G7B_
** Warning: Model LVC1G74_NCLR_IN_18 changed to LVC1G7C_
** Warning: Model LVC1G74_NCLR_IN_25 changed to LVC1G7D_
** Warning: Model LVC1G74_NCLR_IN_33 changed to LVC1G7E_
** Warning: Model LVC1G74_NCLR_IN_50 changed to LVC1G7F_
** Warning: Model LVC1G74_IN_18 changed to LVC1G7G_
** Warning: Model LVC1G74_IN_25 changed to LVC1G7H_
** Warning: Model LVC1G74_IN_33 changed to LVC1G7I_
** Warning: Model LVC1G74_IN_50 changed to LVC1G7J_
** Warning: Model LVC1G74_OUT_18 changed to LVC1G7K_
** Warning: Model LVC1G74_OUT_25 changed to LVC1G7L_
** Warning: Model LVC1G74_OUT_33 changed to LVC1G7M_
** Warning: Model LVC1G74_OUT_50 changed to LVC1G7N_
**********
*SRC=LVC1G74__Pin_2_T;LVC1G74__Pin_2_T;IBIS_BUFFER;*SYM=IBISO
.SUBCKT LVC1G74__Pin_2_T 100 4 300 400 500
*Connections    Input Output VCC VEE Enable
** Referenced by:
** D
*Model Version; typical
*DEFINE {RTF}=??bad rtr/rtf value??
*DEFINE {RTR}=??bad rtr/rtf value??
* Input Control
B1 820 0 V=V(100) & V(500)
B2 830 0 V= V(500) & ~V(100)
* Up and Down Ramps
B3 300 850 I= V(830) > 1.2   ? 0 : V(300,850) / {RTR}
RB3 300 850 100MEG
B4 840 400 I= V(820) > 1.2 ? 0 : V(840,400) / {RTF}
RB4 840 400 100MEG
C1 300 850 .01P
C2 840 400 .01P
S1 220 850 0 820 SMOD
S2 840 220 0 830 SMOD
.MODEL SMOD SW RON=.1M ROFF=1E15 VT=-1.2 VH=.1
G1 8 400 2 8 1
R1 6 400 1
G2 300 8 8 3 1
R2 300 6 1
* Pull-up/Pull-down structures; typical
* Diode Clamps
* Package Parasitics: typical
ROSNB 5 1 100
ROPKG 1 4 2.800e-02
COPKG 4 400 2.370e-13
CCOMP 5 400 LOPKG 5 1 1.697e-09
* Voltage Sources for measuring currents
V5 6 5 
V6 8 6 
V7 220 8 
.ENDS
**********

**
** Library generated Tuesday, June 02, 2020 21:58:17
** The IBIS file was D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\SN74LVC1G74\SN74LVC1G74.ibs
**
** Failed to open copyright.txt. Error: 2.
** Warning: Model LVC1G74_IN changed to LVC1G74_
** Warning: Model LVC1G74_OUT changed to LVC1G75_
** Warning: Model LVC1G74_NCLR_IN changed to LVC1G76_
** Warning: Model LVC1G74_NPRE_IN changed to LVC1G77_
** Warning: Model LVC1G74_NPRE_IN_18 changed to LVC1G78_
** Warning: Model LVC1G74_NPRE_IN_25 changed to LVC1G79_
** Warning: Model LVC1G74_NPRE_IN_33 changed to LVC1G7A_
** Warning: Model LVC1G74_NPRE_IN_50 changed to LVC1G7B_
** Warning: Model LVC1G74_NCLR_IN_18 changed to LVC1G7C_
** Warning: Model LVC1G74_NCLR_IN_25 changed to LVC1G7D_
** Warning: Model LVC1G74_NCLR_IN_33 changed to LVC1G7E_
** Warning: Model LVC1G74_NCLR_IN_50 changed to LVC1G7F_
** Warning: Model LVC1G74_IN_18 changed to LVC1G7G_
** Warning: Model LVC1G74_IN_25 changed to LVC1G7H_
** Warning: Model LVC1G74_IN_33 changed to LVC1G7I_
** Warning: Model LVC1G74_IN_50 changed to LVC1G7J_
** Warning: Model LVC1G74_OUT_18 changed to LVC1G7K_
** Warning: Model LVC1G74_OUT_25 changed to LVC1G7L_
** Warning: Model LVC1G74_OUT_33 changed to LVC1G7M_
** Warning: Model LVC1G74_OUT_50 changed to LVC1G7N_
**********
*SRC=LVC1G75__Pin_3_T;LVC1G75__Pin_3_T;IBIS_BUFFER;*SYM=IBISO
.SUBCKT LVC1G75__Pin_3_T 100 4 300 400 500
*Connections    Input Output VCC VEE Enable
** Referenced by:
** NQ
*Model Version; typical
*DEFINE {RTF}=??bad rtr/rtf value??
*DEFINE {RTR}=??bad rtr/rtf value??
* Input Control
B1 820 0 V=V(100) & V(500)
B2 830 0 V= V(500) & ~V(100)
* Up and Down Ramps
B3 300 850 I= V(830) > 1.2   ? 0 : V(300,850) / {RTR}
RB3 300 850 100MEG
B4 840 400 I= V(820) > 1.2 ? 0 : V(840,400) / {RTF}
RB4 840 400 100MEG
C1 300 850 .01P
C2 840 400 .01P
S1 220 850 0 820 SMOD
S2 840 220 0 830 SMOD
.MODEL SMOD SW RON=.1M ROFF=1E15 VT=-1.2 VH=.1
G1 8 400 2 8 1
R1 6 400 1
G2 300 8 8 3 1
R2 300 6 1
* Pull-up/Pull-down structures; typical
* Diode Clamps
* Package Parasitics: typical
ROSNB 5 1 100
ROPKG 1 4 3.000e-02
COPKG 4 400 2.390e-13
CCOMP 5 400 LOPKG 5 1 1.722e-09
* Voltage Sources for measuring currents
V5 6 5 
V6 8 6 
V7 220 8 
.ENDS
**********

**
** Library generated Tuesday, June 02, 2020 21:58:17
** The IBIS file was D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\SN74LVC1G74\SN74LVC1G74.ibs
**
** Failed to open copyright.txt. Error: 2.
** Warning: Model LVC1G74_IN changed to LVC1G74_
** Warning: Model LVC1G74_OUT changed to LVC1G75_
** Warning: Model LVC1G74_NCLR_IN changed to LVC1G76_
** Warning: Model LVC1G74_NPRE_IN changed to LVC1G77_
** Warning: Model LVC1G74_NPRE_IN_18 changed to LVC1G78_
** Warning: Model LVC1G74_NPRE_IN_25 changed to LVC1G79_
** Warning: Model LVC1G74_NPRE_IN_33 changed to LVC1G7A_
** Warning: Model LVC1G74_NPRE_IN_50 changed to LVC1G7B_
** Warning: Model LVC1G74_NCLR_IN_18 changed to LVC1G7C_
** Warning: Model LVC1G74_NCLR_IN_25 changed to LVC1G7D_
** Warning: Model LVC1G74_NCLR_IN_33 changed to LVC1G7E_
** Warning: Model LVC1G74_NCLR_IN_50 changed to LVC1G7F_
** Warning: Model LVC1G74_IN_18 changed to LVC1G7G_
** Warning: Model LVC1G74_IN_25 changed to LVC1G7H_
** Warning: Model LVC1G74_IN_33 changed to LVC1G7I_
** Warning: Model LVC1G74_IN_50 changed to LVC1G7J_
** Warning: Model LVC1G74_OUT_18 changed to LVC1G7K_
** Warning: Model LVC1G74_OUT_25 changed to LVC1G7L_
** Warning: Model LVC1G74_OUT_33 changed to LVC1G7M_
** Warning: Model LVC1G74_OUT_50 changed to LVC1G7N_
**********
*SRC=LVC1G75__Pin_5_T;LVC1G75__Pin_5_T;IBIS_BUFFER;*SYM=IBISO
.SUBCKT LVC1G75__Pin_5_T 100 4 300 400 500
*Connections    Input Output VCC VEE Enable
** Referenced by:
** Q
*Model Version; typical
*DEFINE {RTF}=??bad rtr/rtf value??
*DEFINE {RTR}=??bad rtr/rtf value??
* Input Control
B1 820 0 V=V(100) & V(500)
B2 830 0 V= V(500) & ~V(100)
* Up and Down Ramps
B3 300 850 I= V(830) > 1.2   ? 0 : V(300,850) / {RTR}
RB3 300 850 100MEG
B4 840 400 I= V(820) > 1.2 ? 0 : V(840,400) / {RTF}
RB4 840 400 100MEG
C1 300 850 .01P
C2 840 400 .01P
S1 220 850 0 820 SMOD
S2 840 220 0 830 SMOD
.MODEL SMOD SW RON=.1M ROFF=1E15 VT=-1.2 VH=.1
G1 8 400 2 8 1
R1 6 400 1
G2 300 8 8 3 1
R2 300 6 1
* Pull-up/Pull-down structures; typical
* Diode Clamps
* Package Parasitics: typical
ROSNB 5 1 100
ROPKG 1 4 2.800e-02
COPKG 4 400 2.280e-13
CCOMP 5 400 LOPKG 5 1 1.924e-09
* Voltage Sources for measuring currents
V5 6 5 
V6 8 6 
V7 220 8 
.ENDS
**********

**
** Library generated Tuesday, June 02, 2020 21:58:17
** The IBIS file was D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\SN74LVC1G74\SN74LVC1G74.ibs
**
** Failed to open copyright.txt. Error: 2.
** Warning: Model LVC1G74_IN changed to LVC1G74_
** Warning: Model LVC1G74_OUT changed to LVC1G75_
** Warning: Model LVC1G74_NCLR_IN changed to LVC1G76_
** Warning: Model LVC1G74_NPRE_IN changed to LVC1G77_
** Warning: Model LVC1G74_NPRE_IN_18 changed to LVC1G78_
** Warning: Model LVC1G74_NPRE_IN_25 changed to LVC1G79_
** Warning: Model LVC1G74_NPRE_IN_33 changed to LVC1G7A_
** Warning: Model LVC1G74_NPRE_IN_50 changed to LVC1G7B_
** Warning: Model LVC1G74_NCLR_IN_18 changed to LVC1G7C_
** Warning: Model LVC1G74_NCLR_IN_25 changed to LVC1G7D_
** Warning: Model LVC1G74_NCLR_IN_33 changed to LVC1G7E_
** Warning: Model LVC1G74_NCLR_IN_50 changed to LVC1G7F_
** Warning: Model LVC1G74_IN_18 changed to LVC1G7G_
** Warning: Model LVC1G74_IN_25 changed to LVC1G7H_
** Warning: Model LVC1G74_IN_33 changed to LVC1G7I_
** Warning: Model LVC1G74_IN_50 changed to LVC1G7J_
** Warning: Model LVC1G74_OUT_18 changed to LVC1G7K_
** Warning: Model LVC1G74_OUT_25 changed to LVC1G7L_
** Warning: Model LVC1G74_OUT_33 changed to LVC1G7M_
** Warning: Model LVC1G74_OUT_50 changed to LVC1G7N_
**********
*SRC=LVC1G76__Pin_6_T;LVC1G76__Pin_6_T;IBIS_BUFFER;*SYM=IBISO
.SUBCKT LVC1G76__Pin_6_T 100 4 300 400 500
*Connections    Input Output VCC VEE Enable
** Referenced by:
** NCLR
*Model Version; typical
*DEFINE {RTF}=??bad rtr/rtf value??
*DEFINE {RTR}=??bad rtr/rtf value??
* Input Control
B1 820 0 V=V(100) & V(500)
B2 830 0 V= V(500) & ~V(100)
* Up and Down Ramps
B3 300 850 I= V(830) > 1.2   ? 0 : V(300,850) / {RTR}
RB3 300 850 100MEG
B4 840 400 I= V(820) > 1.2 ? 0 : V(840,400) / {RTF}
RB4 840 400 100MEG
C1 300 850 .01P
C2 840 400 .01P
S1 220 850 0 820 SMOD
S2 840 220 0 830 SMOD
.MODEL SMOD SW RON=.1M ROFF=1E15 VT=-1.2 VH=.1
G1 8 400 2 8 1
R1 6 400 1
G2 300 8 8 3 1
R2 300 6 1
* Pull-up/Pull-down structures; typical
* Diode Clamps
* Package Parasitics: typical
ROSNB 5 1 100
ROPKG 1 4 2.900e-02
COPKG 4 400 2.420e-13
CCOMP 5 400 LOPKG 5 1 1.736e-09
* Voltage Sources for measuring currents
V5 6 5 
V6 8 6 
V7 220 8 
.ENDS
**********

